US09029545B2
N-{6-Methyl-2-(1H-pyrazol-4-yl)-3-[5-(1-pyrrolidinyl)-3-pyridinyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide
A mixture of 1,1-dimethylethyl 4-{3-bromo-6-methyl-4-[(phenylsulfonyl)amino]thieno[2,3-b]pyridin-2-yl}-1H-pyrazole-1-carboxylate (Description 71) (200 mg, 0.364 mmol), 3-(1-pyrrolidinyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (Description 79) (399 mg, 0.73 mmol), potassium carbonate (151 mg, 1.09 mmol), tetrakis(triphenylphosphine)palladium(0) (42.1 mg, 0.036 mmol) and bis(triphenylphosphine)palladium(II) chloride (25.5 mg, 0.036 mmol) were weighed into a microwave vial. 1,4-Dioxane (3 mL), DMF (1.5 mL) and water (0.75 mL) were added and the mixture heated in a microwave at 120° C. for 30 min. At this point, all three reaction mixtures were combined and concentrated. The residue was passed through an SCX cartridge, eluting with MeOH (150 mL) and then with 2M NH3 in MeOH (200 mL). The basic methanolic solution was concentrated and purified by normal phase chromatography, eluting with 0-100% ethyl acetate in DCM, followed by trituration with DCM (10 mL×3), to give the title compound (185 mg). LCMS (A) m/z: 517 [M+1]+, Rt 0.76 min (acidic).

reactant | 1,1-dimethylethyl 4-{3-bromo-6-methyl-4-[(phenylsulfonyl)amino]thieno[2,3-b]pyridin-2-yl}-1H-pyrazole-1-carboxylate | 0.364 mmol, 200 mg | BrC1=C(SC2=NC(=CC(=C21)NS(=O)(=O)C2=CC=CC=C2)C)C=2C=NN(C2)C(=O)OC(C)(C)C | C22H21BrN4O4S2
reactant | 3-(1-pyrrolidinyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.73 mmol, 399 mg | N1(CCCC1)C=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C15H23BN2O2
reactant | potassium carbonate | 1.09 mmol, 151 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-Dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.036 mmol, 42.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.036 mmol, 25.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.75 mL | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | N-{6-Methyl-2-(1H-pyrazol-4-yl)-3-[5-(1-pyrrolidinyl)-3-pyridinyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide | 185 mg | CC1=CC(=C2C(=N1)SC(=C2C=2C=NC=C(C2)N2CCCC2)C=2C=NNC2)NS(=O)(=O)C2=CC=CC=C2 | C26H24N6O2S2
